US06133265
1-(3-Aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl cyclohexane (cis isomer) (150 mg) was dissolved in 1 mL dry DMF under a nitrogen atmosphere. 2-Bromoethyl ether (150 mg) and potassium carbonate (150 mg) were added and the mixture was heated to 90° C. for 6 hours. The mixture was cooled to room temperature, diluted with 20 mL ethyl acetate, and transferred to a separatory funnel. The mixture was washed 5×10 mL water and 1×10 mL brine. The organic phase was dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography, eluting with 9/1 hexanes/ethyl acetate to give 68 mg 1-(3-morpholinophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl cyclohexane (cis isomer) as a clear oil. m.p. (HCl salt)=178-180° C.

reactant | 1-(3-Aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl cyclohexane | 150 mg | NC=1C=C(C=CC1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C23H31N3
reactant | 2-Bromoethyl ether | 150 mg | BrCCOCCBr | C4H8Br2O
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-morpholinophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl cyclohexane | 68 mg | O1CCN(CC1)C=1C=C(C=CC1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C27H37N3O
